US06458780B1
7-Hydroxyacetylimidazo[5,1-b]thiazole (1.42 g) was dissolved in 10 ml of DMF. Imidazole (847 mg) and 1.77 g of t-butyldimethylsilyl chloride were added to the solution in an argon atmosphere. The mixture was stirred at room temperature for 24 hr. Brine was added to the reaction solution, followed by extraction twice with ethyl acetate. The organic layers were combined together, washed with brine, dried over anhydrous magnesium sulfate, and then filtered. The solvent was removed by distillation under the reduced pressure. The residue was purified by column chromatography on silica gel (hexane:ethyl acetate=1:2) to give 2.19 g of 7-t-butyldimethylsilyloxyacetylimidazo[5,1-b]thiazole.

reactant | 7-Hydroxyacetylimidazo[5,1-b]thiazole | 1.42 g | OCC(=O)C=1N=CN2C1SC=C2 | C7H6N2O2S
reactant | Imidazole | 847 mg | N1C=NC=C1 | C3H4N2
reactant | t-butyldimethylsilyl chloride | 1.77 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | Brine | [Cl-].[Na+].O
product | 7-t-butyldimethylsilyloxyacetylimidazo[5,1-b]thiazole | 2.19 g | [Si](C)(C)(C(C)(C)C)OCC(=O)C=1N=CN2C1SC=C2 | C13H20N2O2SSi
